US09145354B2
Step 2 Dess-Martin periodinane (243 mg, 0.572 mmol) was dissolved in dry CH2Cl2 (1 mL) and then added dropwise to a solution of tert-butyl N-[(1R)-1-(4-chloro-2-fluoro-3-{hydroxy[2-(methylsulfanyl)pyrimidin-5-yl]methyl}phenyl)propyl]carbamate (194 mg, 0.439 mmol) in dry CH2Cl2 (1 mL) and the solution was stirred at rt for 8 h. After this time the reaction mixture was diluted with CH2Cl2 (10 mL) and washed with saturated NaHCO3 (10 mL). The aqueous phase was extracted with CH2Cl2 (3×10 mL) and the combined organic extracts were washed with saturated Na2SO3 (10 mL) and brine (10 mL), dried (Na2SO4), filtered and concentrated in vacuo to give crude material (˜200 mg). Purified by silica column (25M on Biotage SP4) eluting 20-40% EtOAc in petroleum ether over 15 column volumes to give tert-butyl N-[(1R)-1-(4-chloro-2-fluoro-3-{[2-(methylsulfanyl)pyrimidin-5-yl]carbonyl}phenyl)propyl]-carbamate (100 mg, 0.23 mmol, 0.52%). m/z: 439.

reactant | Dess-Martin periodinane | 0.572 mmol, 243 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl N-[(1R)-1-(4-chloro-2-fluoro-3-{hydroxy[2-(methylsulfanyl)pyrimidin-5-yl]methyl}phenyl)propyl]carbamate | 0.439 mmol, 194 mg | ClC1=C(C(=C(C=C1)[C@@H](CC)NC(OC(C)(C)C)=O)F)C(C=1C=NC(=NC1)SC)O | C20H25ClFN3O3S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-[(1R)-1-(4-chloro-2-fluoro-3-{[2-(methylsulfanyl)pyrimidin-5-yl]carbonyl}phenyl)propyl]-carbamate | 0.23 mmol, 100 mg, 0.52% | ClC1=C(C(=C(C=C1)[C@@H](CC)NC(OC(C)(C)C)=O)F)C(=O)C=1C=NC(=NC1)SC | C20H23ClFN3O3S
